US08258144B2
A mixture of 2,4-dichloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine (244 mg, 0.520 mmol), 1-N—BOC-4-aminomethyl piperidine hydrochloride (130 mg, 0.520 mmol) and TEA (0.200 mL, 1.44 mmol) in CH3CN (6 mL) was stirred at room temperature for 16 h. Water and EtOAc were added. The organic phase was separated, washed with 1N HCl, then with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give tert-butyl 4-((2-chloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)methyl)piperidine-1-carboxylate (336 mg).

reactant | 2,4-dichloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine | 0.520 mmol, 244 mg | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)Cl | C13H8Cl2IN3O2S
reactant | 1-N—BOC-4-aminomethyl piperidine hydrochloride | 0.520 mmol, 130 mg | Cl.C(=O)(OC(C)(C)C)N1CCC(CC1)CN
reactant | Water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN | 6 mL | CC#N | C2H3N
product | tert-butyl 4-((2-chloro-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)methyl)piperidine-1-carboxylate | 336 mg | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)NCC2CCN(CC2)C(=O)OC(C)(C)C | C24H29ClIN5O4S
